US08633189B2
To 5-methyl-2-nitro-benzoic acid (100 mg, 0.55 mmol), ethyl 2-(hydroxyamino)-2-imino-acetate (73 mg, 0.55 mmol), and HATU (210 mg, 0.55 mmol) were added acetonitrile (4 mL) and DIEA (96 μL, 0.55 mmol). The reaction was stirred at room temperature for 25 min resulting in a thick white precipitate. The solid was filtered, washed with water then dried to yield ethyl 2-(hydroxyimino)-2-(5-methyl-2-nitrobenzamido)acetate as a white solid (150 mg, 92% yield). LC/MS m/z 296.1 [M+H]+. 1H NMR (400.0 MHz, DMSO-do) δ 8.05 (d, J=8.3 Hz, 1H), 7.74 (d, J=0.9 Hz, 1H), 7.61 (d, J=8.4 Hz, 1H), 7.16 (br s, 2H), 4.28 (q, J=7.1 Hz, 2H), 2.47 (s, 3H), 1.28 (t, J=7.1 Hz, 3H).

reactant | 5-methyl-2-nitro-benzoic acid | 0.55 mmol, 100 mg | CC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C8H7NO4
reactant | ethyl 2-(hydroxyamino)-2-imino-acetate | 0.55 mmol, 73 mg | ONC(C(=O)OCC)=N | C4H8N2O3
reactant | HATU | 0.55 mmol, 210 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.55 mmol, 96 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | ethyl 2-(hydroxyimino)-2-(5-methyl-2-nitrobenzamido)acetate | 150 mg, 92% yield | ON=C(C(=O)OCC)NC(C1=C(C=CC(=C1)C)[N+](=O)[O-])=O | C12H13N3O6
